US07691893B2
Preparation 18: ethyl 3-{[3-(ethyloxy)-3-oxopropyl]amino}butanoate (P18)
A solution of ethyl 3-aminobutanoate (4.2 g) and of ethyl 2-propenoate (3.83 mL) in EtOH (20 mL) was stirred at room temperature for 8 h. The solvent was evaporated under reduced pressure and the residue purified by chromatography on NH column eluting with a gradient from 100% cyclohexane to 90% ethyl acetate/cyclohexane. The title compound was isolated as a colourless oil, 3.9 g (MS (m/z): 232 [MH]+.

reactant | ethyl 3-aminobutanoate | 4.2 g | NC(CC(=O)OCC)C | C6H13NO2
reactant | ethyl 2-propenoate | 3.83 mL | C(C=C)(=O)OCC | C5H8O2
solvent | EtOH | 20 mL | CCO | C2H6O
product | ethyl 3-{[3-(ethyloxy)-3-oxopropyl]amino}butanoate | C(C)OC(CCNC(CC(=O)OCC)C)=O | C11H21NO4
